US07781454B2
Step 6: 4-(3-bromo-2,5-dichlorophenoxy)-5-chloro-1H-1,2,3-benzotriazole
3-(3-bromo-2,5-dichlorophenoxy)-4-chlorobenzene-1,2-diamine (2.48 g, 6.47 mmol) in acetic acid (20 mL) was cooled to 15° C., after which sodium nitrite (0.446 g, 6.47 mmol) in water (6.47 mL) was added dropwise under N2. After 1.5 hours, the reaction mixture was diluted with EtOAc (200 mL), and the organic phase was separated and washed with water (3×75 mL). The organic phase was dried (MgSO4), filtered, concentrated and placed under vacuum to yield the title compound. LRMS (M+1)=393.4.

reactant | 3-(3-bromo-2,5-dichlorophenoxy)-4-chlorobenzene-1,2-diamine | 6.47 mmol, 2.48 g | BrC=1C(=C(OC2=C(C(=CC=C2Cl)N)N)C=C(C1)Cl)Cl | C12H8BrCl3N2O
reactant | sodium nitrite | 6.47 mmol, 0.446 g | N(=O)[O-].[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | water | 6.47 mL | O | H2O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 4-(3-bromo-2,5-dichlorophenoxy)-5-chloro-1H-1,2,3-benzotriazole | BrC=1C(=C(OC2=C(C=CC=3NN=NC32)Cl)C=C(C1)Cl)Cl | C12H5BrCl3N3O
